US07396836B2
4-(2-Furyl)-2-pyrimidinylamine
A suspension of 3-(dimethylamino)-1-(2-furyl)-2-propen-1-one (5.0 g, 30.3 mmol), guanidine hydrochloride (5.8 g, 60.7 mmol) and potassium carbonate (8.4 g, 60.9 mmol) in N,N-dimethylformamide (50 ml) was stirred at 100° C. for 21 hours. After cooling as it was, the reaction mixture was diluted with ice water (250 ml). The resulting solid was collected by filtration and washed with water, to give the title compound (4.19 g, 86%) as a pale brown solid.

reactant | 3-(dimethylamino)-1-(2-furyl)-2-propen-1-one | 30.3 mmol, 5.0 g | CN(C=CC(=O)C=1OC=CC1)C | C9H11NO2
reactant | guanidine hydrochloride | 60.7 mmol, 5.8 g | Cl.NC(=N)N
reactant | potassium carbonate | 60.9 mmol, 8.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-(2-Furyl)-2-pyrimidinylamine | 4.19 g, 86% | O1C(=CC=C1)C1=NC(=NC=C1)N | C8H7N3O
